US05550147
A mixture of 1-(4-carboxyphenyl)-3-(difluoromethyl) -5-[4-(methylthio)phenyl]pyrazole (2 g) and thionyl chloride (20 ml) was refluxed for 3 hours, and concentrated in vacuo, giving 1-[4-(chloroformyl)phenyl]-3-(difluoromethyl)-5-[4-(methylthio)phenyl]pyrazole. A solution of diethyl malonate (1.4 g) and ethanol (0.3 ml) in diethyl ether (15 ml) was added dropwise to a stirred mixture of magnesium (0.16 g), ethanol (0.2 ml) and carbon tetrachloride (0.36 ml) in diethyl ether (5 ml). The resulting mixture was refluxed for 1 hour. A solution of the above acid chloride in tetrahydrofuran (15 ml) was added dropwise to the mixture. The mixture was stirred at ambient temperature for 1 hour and refluxed for 1 hour. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated. A mixture of the residue (4 g), acetic acid (40 ml), and 20% sulfuric acid (20 ml) was refluxed for 3.5 hours and then concentrated. The residue was dissolved in ethyl acetate, and the solution was washed with water, dried, and concentrated. The residue was purified by column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (4:1) to give crystals of 1-(4-acetylphenyl)-3-(difluoromethyl)-5-[4-(methylthio)phenyl]pyrazole (0.4 g).

reactant | 1-(4-carboxyphenyl)-3-(difluoromethyl) -5-[4-(methylthio)phenyl]pyrazole | 2 g | C(=O)(O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(F)F | C18H14F2N2O2S
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-[4-(chloroformyl)phenyl]-3-(difluoromethyl)-5-[4-(methylthio)phenyl]pyrazole | ClC(=O)C1=CC=C(C=C1)N1N=C(C=C1C1=CC=C(C=C1)SC)C(F)F | C18H13ClF2N2OS
